US04474786
Preparation of 2-(N-acetylamino)-4,6-dihydro-3H[2]benzopyrano[3,4-b]pyridin-3-one
To 2.0 gm of 2-amino-4,6-dihydro-3H-[2]benzopyrano[3,4-b]pyridin-3-one, in 100 ml of chloroform containing 1 ml of pyridine, add 0.80 gm of acetyl chloride. Stir the reaction at room temperature for 5 hours. Filter and wash the solution with water. Remove the solvent by stripping to give the title compound.

reactant | 2-amino-4,6-dihydro-3H-[2]benzopyrano[3,4-b]pyridin-3-one | 2.0 gm | NC1=CC2=C(NC1=O)OCC1=C2C=CC=C1 | C12H10N2O2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 0.80 gm | C(C)(=O)Cl | C2H3ClO
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(N-acetylamino)-4,6-dihydro-3H[2]benzopyrano[3,4-b]pyridin-3-one | C(C)(=O)NC1=CC2=C(NC1=O)OCC1=C2C=CC=C1 | C14H12N2O3
